US05541229
tert.butyl 4'-[(2,6-di-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
tert.butyl 4'-[(2-n-butyl-6-(3-cyclohexyl-piperidino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.65 (Silica gel: methylene chloride/ethanol=9:1)

reactant | tert.butyl 4'-[(2-n-butyl-6-(3-cyclohexyl-piperidino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N2CC(CCC2)C2CCCCC2 | C40H51N3O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | tert.butyl 4'-[(2,6-di-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)CCCC | C33H40N2O2
